Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Iodine-Iodine Containing
 
Attending: ___
 
Chief Complaint:
Headache, 4 episode of speech difficulty
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year-old woman with hx of pseudotumor cerebri s/p
shunt in ___, chronic headache/pain/neck muscle pain, IDDM, 
here
with gradual onset severe headache and 4 discrete episodes of
speech difficulty. 

At baseline, she "always has a headache" usually whole head and
dull. She is usually dealing  with occipital sharp constant pain
associated with "spasm" with pain shooting into jaw (also
diagnosed with TMJ). 

This morning she awoke with her baseline headache that gradually
increased in intensity and became severe/throbbing frontal/top 
of
the head pain with nausea and phonophobia but no photophobia. 
At around 12:30PM it was particularly severe and she felt the
digits 4, 5, and ___ of digit 3 on her right hand went numb. 
This
lasted around 1 minute, then resolved. Around the same time, she
felt that she had difficulty speaking. She describes knowing 
what
she wanted to say but the incorrect word coming out. An example
of what she would say is "My sister sleeps with her
phone"---->"My sister sleeps on the floor". She continued to use
real words in the incorrect context for several minutes and then
this resolved. This sensation occurred around 3 more times
throughout the afternoon/evening every several hours. 2 out of
these 4 times, she also had the right finger numbness at the 
time
of her speech difficulties. These were all in the setting of her
severe headache but she does not feel that her mistakes were ___
pain. 

On neuro ROS, the pt denies transient loss of vision, blurred
vision, diplopia, dysarthria, lightheadedness, vertigo, tinnitus
or hearing difficulty. Denies difficulties comprehending speech. 

Denies focal weakness. No bowel or bladder incontinence or
retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills. Denies vomiting or abdominal pain.
 
Past Medical History:
CELIAC DISEASE                                                  
CHRONIC FATIGUE SYNDROME                                        
DIABETES TYPE I                                                 
HEREDITARY EPIPHYSEAL DYSPLASIA                                 
HYPOPARATHYROIDISM                                              
PAPILLARY THYROID CARCINOMA                                     
PSEUDOTUMOR CEREBRI                                             
SLEEP STUDY-DENTAL DEVICE                                       
SLEEP STUDY-DIAGNOSTIC                                          
OBSTRUCTIVE SLEEP APNEA 
 
Social History:
___
Family History:
Father and Grandmother had strokes in ___.
 
Physical Exam:
===============
ADMISSION EXAM
===============

Vitals: ___, HR 84, BP 159/66, RR 16, 100% on RA

HEENT: Has baseline neck pain but no meningismus. 

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes, ___ with 
category
cue. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. VFF to confrontation. Fundoscopic exam revealed no
papilledema or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch and proprioception
throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  *  *    1    2   0
R  *  *    1    2   0
Plantar response was flexor bilaterally. No clonus. No crossed
adductors or pectoral jerks. 
*could not obtain

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred

===============
DISCHARGE EXAM
===============
98.1 ___ 18 100% 

Genl: NAD
HEENT: Has baseline neck pain but no meningismus.
CV: WWP
Resp:regular respirations
Abd: ND

Neurologic:

-Mental Status: Alert, Language is fluent with intact repetition 
and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. VFF to confrontation. Fundoscopic exam revealed no
papilledema or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch and proprioception
throughout. No extinction to DSS.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred

 
Pertinent Results:
===========
Final Labs
===========

___ 11:04AM BLOOD WBC-4.6 RBC-4.21 Hgb-12.8 Hct-37.6 MCV-89 
MCH-30.4 MCHC-34.0 RDW-12.1 RDWSD-39.4 Plt ___

___ 10:15PM BLOOD Neuts-43.0 ___ Monos-9.6 Eos-4.3 
Baso-0.8 Im ___ AbsNeut-2.28 AbsLymp-2.23 AbsMono-0.51 
AbsEos-0.23 AbsBaso-0.04

___ 11:04AM BLOOD Plt ___

___ 10:15PM BLOOD ___ PTT-28.7 ___

___ 11:04AM BLOOD Glucose-123* UreaN-8 Creat-0.8 Na-139 
K-3.5 Cl-102 HCO3-24 AnGap-17

___ 09:47AM BLOOD cTropnT-<0.01

___ 11:04AM BLOOD Calcium-8.7 Phos-3.3 Mg-1.3*

___ 11:04AM BLOOD %HbA1c-7.9* eAG-180*

___ 11:04AM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG

MR head, MRA head and neck all without contrast
1. Although artifact from the intraventricular drain limits 
evaluation of the 
right posterior fossa, there is no evidence of acute infarction. 
 No other 
significant abnormalities. 
2. Normal MRA of the neck and brain. 

CT head
1.  No evidence of acute infarct or hemorrhage. 
2.  Right posterior approach ventriculostomy catheter tip ends 
just to the 
left of midline at the anterior roof of the lateral ventricles.  
No 
ventriculomegaly. 
3.  Mild paranasal sinus disease as above. 

 
Brief Hospital Course:
___ is a ___ year-old woman with hx of pseudotumor 
cerebri s/p shunt in  
___, chronic headache/pain/neck muscle pain, and IDDM here with 
headaches, speech difficulty, and right hand numbness. No 
concerning findings on admission neurologic exam. A CT, MRI 
Brain wo contrast, MRA head, and MRA neck did not reveal any 
acute pathology. Her VP shunt was turned off for the MRI and 
subsequently reprogrammed by neurosurgery. EEG showed 
intermittent L temporal slowing without any symptomatic 
correlate. No epileptiform discharges. 

Given headache with onset of speech difficulties over minutes, 
ultimately we felt speech symptoms were likely due to migraine 
with aura although TIA cannot be excluded. Given her right ulnar 
distribution numbness and given that paresthesias were elicited 
with percussion of the right ulnar groove, she likely has an 
ulnar neuropathy as well. We discontinued her oral contraceptive 
because estrogen-containing medications are contraindicated in 
patients with migraine with aura.

Transitional issues:
-Outpatient echo ordered for TIA work-up
-A1c, TSH pending; needs fasting lipid panel as outpatient for 
TIA work-up
-Estrogen OCP discontinued. She can take a progesterone 
containing pill (she will discuss this with your primary care 
physician or ___. 
-Magnesium low; patient will call PCP to arrange recheck
-EEG formal read pending
-Outpatient HA management
-Follow-up ulnar neuropathy

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Baclofen 10 mg PO QHS 
2. Calcitriol 0.5 mcg PO DAILY 
3. Citalopram 20 mg PO DAILY 
4. desogestrel-ethinyl estradiol 0.15-0.03 mg oral DAILY 
5. etodolac 400 mg oral BID:PRN pain with food 
6. levothyroxine 200 mcg PO DAILY 
7. Simvastatin 40 mg PO DAILY 
8. Tizanidine 4 mg PO BID:PRN for pain 
9. Triamterene-HCTZ (37.5/25) 3 CAP PO DAILY 
10. Aspirin 81 mg PO DAILY 
11. Multivitamins W/minerals 1 TAB PO DAILY 
12. Omeprazole 20 mg PO DAILY 
13. Klor-Con M20 (potassium chloride) 20 mEq PO DAILY 
14. Insulin  Pump SC (Self Administering Medication)Insulin 
Lispro (Humalog)
Basal rate minimum: 0.8 units/hr
Basal rate maximum: 0.9 units/hr
Bolus minimum: ratio of 1u:12g  units
Bolus maximum: ratio of 1u:12g  units
Target glucose: 80-200
Fingersticks: QAC and HS

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Calcitriol 0.5 mcg PO DAILY 
3. Baclofen 10 mg PO QHS 
4. Citalopram 20 mg PO DAILY 
5. etodolac 400 mg ORAL BID:PRN pain with food 
6. Insulin  Pump SC (Self Administering Medication)Insulin 
Lispro (Humalog)
Basal rate minimum: 0.8 units/hr
Basal rate maximum: 0.9 units/hr
Bolus minimum: ratio of 1u:12g  units
Bolus maximum: ratio of 1u:12g  units
Target glucose: 80-200
Fingersticks: QAC and HS

7. Omeprazole 20 mg PO DAILY 
8. Simvastatin 40 mg PO DAILY 
9. Tizanidine 4 mg PO BID:PRN for pain 
10. Triamterene-HCTZ (37.5/25) 3 CAP PO DAILY 
11. Multivitamins W/minerals 1 TAB PO DAILY 
12. levothyroxine 200 mcg PO DAILY 
13. Klor-Con M20 (potassium chloride) 20 mEq PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Migraine with aura

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted with headaches, speech difficulty, and hand 
numbness. A CT and MRI of your head did not reveal any evidence 
of stroke. Your preliminary EEG read did not show any 
significant predisposition toward seizure but did show 
intermittent L temporal slowing which is non-specific. We have 
ordered an outpatient echocardiogram for you, and they will call 
you to schedule a date/time. Your presentation is most likely 
consistent with migraine with aura. We have discontinued your 
oral contraceptive because estrogen-containing medications are 
contraindicated in patients with migraine with aura. You can 
take a progesterone containing pill (please discuss this with 
your primary care physician or ___. Otherwise your 
medications have not changed.

Your magnesium was slightly low. Please call your primary care 
doctor on ___ to have follow-up labs arranged. This ___ be 
related to diuretic use. Please ask if your medications need to 
be changed. 

We have set you up with an appointment to follow-up with 
neurology. 

It was a pleasure meeting you!
Your ___ Team
 
Followup Instructions:
___